US06461588B1
A) (3β,5β)-3-Azido-12-oxocholan-24-oic acid methyl ester
12.5 mL of Jones reagent (33.3 mmol Cr(VI)) are dropped into a solution of 17.8 g of (3β,5β,12α)-3-azido-12-hydroxycholan-24-oic acid methyl ester (41.1 mmol) (prepared analogously to the method described for (3β,5β,7α,12α)-3-azido-7,12-dihydroxycholan-24-oic acid methyl ester in WO-A-95/32741: example 5) in acetone (600 mL) in 90 min at room temperature. After 20 h the mixture is filtered and the solution is evaporated. The residue is dissolved in CHCl3 (400 mL) and the solution is washed with a NaHCO3 saturated aqueous solution then with H2O. The solution is dried and evaporated to give a crude which is crystallized from 96% EtOH to obtain 14.1 g of the desired product (32.9 mmol).

reactant | Jones reagent | 33.3 mmol, 12.5 mL | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | (3β,5β,12α)-3-azido-12-hydroxycholan-24-oic acid methyl ester | 41.1 mmol, 17.8 g | COC(CC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC[C@@H]4C[C@H](CC[C@]4(C)[C@H]3C[C@@H]([C@]12C)O)N=[N+]=[N-])=O | C25H41N3O3
reactant | (3β,5β,7α,12α)-3-azido-7,12-dihydroxycholan-24-oic acid methyl ester | COC(CC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3[C@@H](C[C@@H]4C[C@H](CC[C@]4(C)[C@H]3C[C@@H]([C@]12C)O)N=[N+]=[N-])O)=O | C25H41N3O4
solvent | acetone | 600 mL | CC(=O)C | C3H6O
product | (3β,5β)-3-Azido-12-oxocholan-24-oic acid methyl ester | 32.9 mmol, 14.1 g, Yield: 84% | COC(CC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC[C@@H]4C[C@H](CC[C@]4(C)[C@H]3CC([C@]12C)=O)N=[N+]=[N-])=O | C25H39N3O3
